* legion-of-bom built-in behavioural SPICE models.
* The parts-library stand-in until real device models travel with each part
* (DESIGN 2.3 / okm). Behavioural, not vendor macro-models — enough to validate
* topology + slew behaviour, not datasheet-exact.

* --- Ideal op-amp: high-gain VCVS with a finite output resistance so a unity-
*     feedback follower has a well-conditioned operating point (a stiff 0-ohm
*     source in a 1e5 loop does not converge). Signals stay within the rails.
.subckt OPAMP_IDEAL out inm inp vminus vplus
Eg ng 0 inp inm 1e5
Rout ng out 100
.ends

* --- Dual op-amp (TL072/TL082/…): pins 1..8 = out1 in1- in1+ V- in2+ in2- out2 V+.
.subckt TL072 o1 i1m i1p vm i2p i2m o2 vp
Xa o1 i1m i1p vm vp OPAMP_IDEAL
Xb o2 i2m i2p vm vp OPAMP_IDEAL
.ends

* --- LM13700 OTA + Darlington buffer (channel A terminals). --------------------
* Pin order: iabc(1) in+(3) in-(4) Iout(5) V-(6) bufin(7) bufout(8) V+(11).
* OTA: I_out = IABC * tanh((V+ - V-)/(2*Vt)), Vt = 26 mV. IABC is the bias current
* pushed into the iabc pin (which sits ~2 diode drops above V-).
.subckt LM13700 iabc inp inn iout vm bufin bufout vp
Vsense iabc na 0
Dbias1 na nb DLM
Dbias2 nb vm DLM
Bota vm iout I = I(Vsense) * tanh( (V(inp) - V(inn)) / 0.052 )
Ebuf bufout 0 bufin 0 1
.model DLM D(Is=1e-14)
.ends
